US04937350
Preparation of 5-Benzamido-3-mercapto-1,2,4-triazole
To a suitably equipped reaction vessel was charged 116 g (1.0 mole) of 5-amino-3-mercapto-1,2,4-triazole and 500 mL of pyridine. A total of 147.5 g (1.05 mole) of benzoyl chloride was added with vigorous stirring over 25 min, during which time the temperature rose from 24° to 59° C. The mobile, pale yellow slurry obtained was heated at reflux with stirring. The solid material dissolved and then, after about 40 additional min, a white solid began separating. An additional 200 mL of pyridine was added to aid mixing and the reaction was continued at 117°-122° C. for a total of 7 hr. The thick, white slurry obtained was filtered, washed with water and with methylene chloride, and dried to obtain 186 g (84 percent of theory) of the title compound, m.p. 311°-312° C. (dec.).

reactant | 5-amino-3-mercapto-1,2,4-triazole | 1.0 mole, 116 g | NC1=NC(=NN1)S | C2H4N4S
reactant | benzoyl chloride | 1.05 mole, 147.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 5-Benzamido-3-mercapto-1,2,4-triazole | C(C1=CC=CC=C1)(=O)NC1=NC(=NN1)S | C9H8N4OS
